US07223791B2
To a solution (25 ml) of 2-(4-trifluoromethylphenyl)furan (3.18 g) in tetrahydrofuran was added dropwise n-butyl lithium (1.6 M solution in hexane, 10.0 ml) under an argon atmosphere at −78° C. This mixed solution was heated to room temperature, and a solution (30 ml) of zinc chloride (2.25 g) in tetrahydrofuran was added. This mixture was stirred for 1 hr., and then ethyl 3-bromobenzoate (2.38 ml) and tetrakis (triphenylphosphine)palladium (0.433 g) were added. This mixture was stirred overnight under an argon atmosphere, and then poured into 0.5 M hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1, volume ratio) and recrystallized from hexane-ethyl acetate to give ethyl 3-[5-(4-trifluoromethylphenyl)-2-furyl]benzoate (1.89 g, yield 35%) as pale-brown needle crystals. melting point: 93–94° C.

reactant | 2-(4-trifluoromethylphenyl)furan | 25 ml, 3.18 g | FC(C1=CC=C(C=C1)C=1OC=CC1)(F)F | C11H7F3O
reactant | n-butyl lithium | 1.6 M, 10.0 ml | C(CCC)[Li]
reactant | ethyl 3-bromobenzoate | 2.38 ml | BrC=1C=C(C(=O)OCC)C=CC1 | C9H9BrO2
reactant | hydrochloric acid | 0.5 M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc chloride | 30 ml, 2.25 g | [Cl-].[Zn+2].[Cl-]
product | ethyl 3-[5-(4-trifluoromethylphenyl)-2-furyl]benzoate | 1.89 g, yield 35% | FC(C1=CC=C(C=C1)C1=CC=C(O1)C=1C=C(C(=O)OCC)C=CC1)(F)F | C20H15F3O3
